US07842696B2
Na2CO3 (228 mg, 2.16 mmol) was added to a stirred solution of 6-chloro nicotinic acid ethyl ester (200 mg, 1.08 mmol) in toluene:H2O (5:1, 6 mL). Pd (PPh3)4 (250 mg, 0.216 mmol) and phenylboronic acid (168 mg, 1.29 mmol) were then added and the reaction mixture was heated to reflux for 3 hrs. The reaction mixture was then diluted with water and the product was extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated to afford 140 mg (64.4% yield) of 6-phenyl-nicotinic acid ethyl ester. LCMS Purity %: 98.2

reactant | Na2CO3 | 2.16 mmol, 228 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-chloro nicotinic acid ethyl ester | 1.08 mmol, 200 mg | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | phenylboronic acid | 1.29 mmol, 168 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene H2O | 6 mL | C1(=CC=CC=C1)C.O
solvent | water | O | H2O
catalyst | Pd (PPh3)4 | 0.216 mmol, 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-phenyl-nicotinic acid ethyl ester | 140 mg, 64.4% yield | C(C)OC(C1=CN=C(C=C1)C1=CC=CC=C1)=O | C14H13NO2
